US08859541B2
3-[6-(2-aminopropanoylamino)-2-(2-phenylethynyl)pyridin-3-yl]-benzoic acid
A mixture of 3-[6-[2-[(2-methylpropan-2-yl)oxycarbonylamino]propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]benzoic acid E2c (16 mg, 0.03 mmol) and DCM:TFA (9:1, 1.7 ml) is stirred at RT for 90 minutes. The mixture is diluted with toluene (10 ml) and concentrated in vacuo. The product is purified by RP HPLC. Yield: 3 mg (24%). HPLC-MS: M+H=386; tR=1.03 min (*Method—1).

reactant | 3-[6-[2-[(2-methylpropan-2-yl)oxycarbonylamino]propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]benzoic acid | 0.03 mmol, 16 mg | CC(C)(C)OC(=O)NC(C(=O)NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1)C | C28H27N3O5
reactant | DCM TFA | 1.7 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[6-(2-aminopropanoylamino)-2-(2-phenylethynyl)pyridin-3-yl]-benzoic acid | NC(C(=O)NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1)C | C23H19N3O3
